US03994875
A mixture of 1.2 equivalents of 5-chloromethyl-2-thienylacetyl chloride and 1 equivalent of 3-[(acetyloxy)-methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid is refluxed for 50 minutes in ethyl acetate after which the solvent is removed and the remaining product is purified by column chromatography on silica gel to give 3-[(acetyloxy)methyl]-7-[[2-[5-(chloromethyl)-2-thienyl]acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid.

reactant | 5-chloromethyl-2-thienylacetyl chloride | 1.2 equivalents | ClCC1=CC=C(S1)CC(=O)Cl | C7H6Cl2OS
reactant | 3-[(acetyloxy)-methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 1 equivalent | C(C)(=O)OCC1=C(N2C(C(C2SC1)N)=O)C(=O)O | C10H12N2O5S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(acetyloxy)methyl]-7-[[2-[5-(chloromethyl)-2-thienyl]acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CC=1SC(=CC1)CCl)=O)=O)C(=O)O | C17H17ClN2O6S2
